US06660753B2
3-Fluoro-5-(3-pyridyl)benzoic Acid
To the solution of Methyl-3-bromo-5-fluorobenzoate (1.97 g, 8.44 mmol) in toluene (40 ml) added Pyridine-3-boronic acid-1,3-propanediol ester (1.79 g, 7.63 mmol), potassium carbonate (11.66 g, 84.4 mmol) and tetrakis(triphenylphoshine)palladium (0) (0.49, 0.42 mmol), sequentially. The resulting brownish yellow reaction mixture was heated at 120° C. under argon overnight. The reaction mixture was cooled to room temperature, filtered through a pad of celite and concentrated in-vacuo. The residue was purified on silica gel using 1% methanol in dichloromethane to isolate the title compound (0.92 g, 47%) as a yellow solid.

reactant | Methyl-3-bromo-5-fluorobenzoate | 8.44 mmol, 1.97 g | COC(C1=CC(=CC(=C1)F)Br)=O | C8H6BrFO2
reactant | Pyridine-3-boronic acid-1,3-propanediol ester | 7.63 mmol, 1.79 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | potassium carbonate | 84.4 mmol, 11.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Fluoro-5-(3-pyridyl)benzoic Acid | 0.92 g, 47% | FC=1C=C(C(=O)O)C=C(C1)C=1C=NC=CC1 | C12H8FNO2
